US05326760
2-(R)-[[3-methyl-1-(S)-[((pyridin-3-yl-methyl)amino)carbonyl]butyl]amino]-4-(hydroxy)-butanoic acid-1,1-dimethylethyl ester
1.18 g of 2-(R)-[[3-methyl-1-(S)-[((pyridin-3-yl-methyl)amino)carbonyl]butyl]amino]-4-[((1,1-dimethylethyl)dimethylsilyl)oxy]-butanoic acid-1,1-dimethylethyl ester, prepared as in Example O, was added to 48 mL of acetic acid:water (9:1) and the mixture was heated to 45° C. and stirred 16 h. The solvents were removed by evaporation and the residue was dissolved in ethyl acetate, washed with saturated sodium bicarbonate, dried (MgSO4). The solvent was removed by evaporation and the residue was purified by silica chromatography using acetone:methylene chloride (1:1) as eluents to give the title compound; 0.513 g.

reactant | 2-(R)-[[3-methyl-1-(S)-[((pyridin-3-yl-methyl)amino)carbonyl]butyl]amino]-4-[((1,1-dimethylethyl)dimethylsilyl)oxy]-butanoic acid-1,1-dimethylethyl ester | 1.18 g | CC(C)(C)OC([C@@H](CCO[Si](C)(C)C(C)(C)C)N[C@@H](CC(C)C)C(=O)NCC=1C=NC=CC1)=O | C26H47N3O4Si
solvent | acetic acid water | 48 mL | C(C)(=O)O.O
product | 2-(R)-[[3-methyl-1-(S)-[((pyridin-3-yl-methyl)amino)carbonyl]butyl]amino]-4-(hydroxy)-butanoic acid-1,1-dimethylethyl ester | CC(C)(C)OC([C@@H](CCO)N[C@@H](CC(C)C)C(=O)NCC=1C=NC=CC1)=O | C20H33N3O4
